Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ old man with a history of a right MCA
stroke in ___ with mild residual left sided weakness presents
with an episode of nausea, vomiting, vertigo and confusion as
well as worsening of his left-sided weakness and seizure.

Around 9:00 this morning, patient had sudden onset feeling of
vertigo.  He described that his vision seemed "like a movie 
going
by."  He started to also feel confused almost like he was lost
even though he was at home.  He had been babysitting his 
grandson
and so he called his ex-wife to come pick up the child since he
knew he was not safe to watch him.  He then started to feel
nauseous and began vomiting.  He felt overall weak.  He also
developed a mild headache which was described as bifrontal with
pressure.  This lasted approximately 30 minutes.  He was able to
get into his ex-wife's car and she took him to ___.

A tele-stroke was activated.  His ex wife noticed that he had
significantly worsened speech and weakness on the left side.  
His
initial ___ stroke scale was 11 for a gaze deviation, left 
facial
droop, left arm weakness, dysarthria, aphasia and sensory
neglect.  He underwent a head CT which showed significant right
MCA territory encephalomalacia extending to the cortex which was
consistent with his known prior stroke.  There was plan to give
him TPA since he was in the window, however his blood pressure
was elevated and so they were treating it prior to giving him 
the
TPA.  While waiting for his blood pressure to come under 
control,
he had a seizure characterized by left head version, left arm 
and
leg jerking with retained consciousness during the event.  He 
was
postictally drowsy and obstructing his airway requiring a
facemask.  The seizure lasted approximately less than 1 minute. 
They gave him Ativan 2 mg IV and Keppra 1000 mg IV.   Of note,
the description of the seizure is from the stroke fellow
witnessing the event over tele-stroke.  According to ___ records, patient did have loss of consciousness with the
seizure but no generalized tonic-clonic movement.  The decision
was made to transfer him to ___  for further management since
there was no neurology available at ___.

On my initial assessment, patient is awake and alert and back to
his baseline per his son at the bedside.  He reports that he was
hospitalized for right MCA stroke at ___ with complete paralysis
of the left side.  He recovered at ___ and his
symptoms have for the most part completely resolved.  He has had
to retire due to his stroke but he is able to perform all
activities of daily living.  He did have a one-time seizure 
about
a month after his stroke.  He was at ___ when he developed
sudden onset left facial twitching and arm shaking lasting less
than a minute with intact consciousness.  He was placed on 
Keppra
750 mg twice daily for seizure prophylaxis.

Patient notes that yesterday he missed both doses of his Keppra
but did take it this morning.  He tends to miss about 1 dose of
Keppra each week.  He does report that he takes aspirin.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  No bowel or bladder
incontinence or retention. Denies difficulty with gait.

 
Past Medical History:
Right MCA stroke ___
Left focal motor seizure
History of throat cancer treated with radiation in ___, with
residual hoarse voice
 
Social History:
___
Family History:
2 brothers with throat cancer
 
Physical Exam:
ON ADMISSION
============
Vitals: T: 97.9 P: 75  R: 16  BP: 119/72 SaO2: 97% nc
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3.  He is inattentive and 
vague
with his history.  Speech is sparse and generally only talks 
when
you asked pointed questions.  For example, when describing the
stroke card he said "kitchen counter", kitchen cabinets" and "I
see a stone."  Language is otherwise fluent.  He has intact
repetition and comprehension.  He cannot name ___ cactus or him
back on the stroke card.  Able to read without difficulty. 
Speech
was mildly dysarthric.  Significantly hoarse voice.  Able to
follow both midline and appendicular commands. There was no
evidence of apraxia, but he did have a visual and sensory
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus.  Visual field cut versus neglect of the left
hemifield.  He does blink to threat on the left side.  
V: Facial sensation intact to light touch.
VII: Moderate left facial droop.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout.  Left pronator drift.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  4+   ___  5-  4+  5    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: Decreased LT sensation over the arm and PP over the
left hemibody. Unable to test proprioception. Extinction on the
left to DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was extensor on the left and flexor on the
right.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Wide-based, normal stride and arm swing. 


ON DISCHARGE
============
Vitals: 98.1 122/86 57 20 91% RA  
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3.  He is inattentive and 
vague with his history.  Language is fluent with intact 
repetition and comprehension. Able to read without difficulty. 
Speech was mildly dysarthric.  Significantly hoarse voice.  Able 
to follow both midline and appendicular commands. There was no
evidence of apraxia, but he did have a visual and sensory 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. No evidence of visual field cut beyond neglect as 
mentioned above. He does blink to threat on the left side.  
V: Facial sensation intact to light touch.
VII: Moderate left facial droop.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout.  Left pronator drift.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  4+   ___  5-  4+  5    5   5     5      4   
R  5    ___   ___    5   5     5      4   

-Sensory: Decreased LT sensation over the arm and PP over the
left hemibody.  Extinction on the left to DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    2    3   2
R  2  2    2    3   2
Plantar response was extensor on the left and flexor on the
right.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Wide-based, normal stride and arm swing. 


 
Pertinent Results:
___ 03:45PM BLOOD WBC-11.4* RBC-4.90 Hgb-14.6 Hct-44.1 
MCV-90 MCH-29.8 MCHC-33.1 RDW-12.2 RDWSD-40.4 Plt ___
___ 07:27AM BLOOD Glucose-166* UreaN-16 Creat-0.8 Na-143 
K-4.6 Cl-101 HCO3-26 AnGap-16
___ 03:45PM BLOOD ALT-29 AST-20 AlkPhos-75 TotBili-0.2
___ 07:27AM BLOOD Calcium-9.1 Phos-2.7 Mg-1.9 Cholest-241*
___ 07:27AM BLOOD Triglyc-182* HDL-40* CHOL/HD-6.0 
LDLcalc-165*
___ 07:27AM BLOOD TSH-2.0
___ 08:34PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:34PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-300* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:34PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 08:34PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 03:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CT/CTA HEAD AND NECK ___:
NECT: 
Compared to the CT without contrast from 4 hours prior, 
re-demonstrated is 
chronic encephalomalacia in the right MCA territory. Subtle 
surrounding 
hypodensity in the periphery of the with well-defined 
encephalomalacia may 
represent a component of acute infarct, though evaluation is 
nonspecific. No significant changes seen since the study from 4 
hours prior. 
  
CTA head and neck: 
There is no definite vascular occlusion, aneurysm greater than 3 
mm, or 
arterial dissection. 

CXR ___:
No acute cardiopulmonary abnormality.

MRI HEAD W/O CONTRAST ___:
Study is moderately degraded by motion.  Within these confines:  
There is a remote infarct within the right middle cerebral 
artery vascular territory with hemosiderin staining related to 
prior hemorrhagic conversion and associated wallerian 
degeneration.  No acute infarct, intracranial hemorrhage, or 
mass effect. 
  
 There is prominence of the ventricles and sulci suggestive 
involutional 
changes.  Areas of hyperintense signal on T2/FLAIR within 
subcortical and 
periventricular white matter nonspecific, but likely reflect the 
sequela of chronic small vessel disease.  The major vascular 
flow voids are preserved. 
  
Bilateral maxillary sinus and ethmoid air cell mucosal 
thickening is present. The orbits are grossly preserved. 
  
IMPRESSION: 
1. Study is moderately degraded by motion. 
2. No acute infarct or acute intracranial hemorrhage. 
3. Remote right MCA infarct with associated hemosiderin staining 
and wallerian 
degeneration. 
4. Paranasal sinus disease , as described. 

 
Brief Hospital Course:
Mr. ___ is a ___ old man with a history of a right MCA 
stroke in ___ with mild residual left sided weakness, who 
presented to an outside hospital with an episode of nausea, 
vomiting, vertigo and confusion as well as worsening of his 
left-sided weakness. He underwent a head CT which showed 
significant right MCA territory encephalomalacia extending to 
the cortex which was consistent with his known prior stroke. 
There was plan to give him TPA since he was in the window, 
however his blood pressure was elevated and so they were 
treating it prior to giving him the TPA. While waiting for his 
blood pressure to come under control, he had a seizure 
characterized by left head version, left arm and leg jerking 
with retained consciousness during the event. He was postictally 
drowsy and obstructing his airway requiring a facemask. The 
seizure lasted approximately less than 1 minute. They gave him 
Ativan 2 mg IV and Keppra 1000 mg IV. tPA was withheld given the 
seizure. He was then transferred to ___ for further Neurology 
evaluation. MRI was obtained and did not show any new infarct. 
CTA of the head and neck showed no definite vascular occlusion, 
aneurysm, or arterial dissection. At ___, he reported 
occasional noncompliance with his Keppra, and missed a dose the 
night prior to presentation. His Keppra dose was increased to 1g 
BID. Standard seizure precautions were reviewed including no 
driving for 6 months, no bathing or swimming unsupervised, and 
no heights.

TRANSITIONAL ISSUES:
-A1c pending at time of discharge. To be followed up by patients 
PCP and ___ from ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. FLUoxetine 20 mg PO DAILY 
4. LevETIRAcetam 750 mg PO BID 
5. Nicotine Patch 7 mg TD DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  FLUoxetine 20 mg PO DAILY  
5.  Nicotine Patch 7 mg TD DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital initially because it was thought that 
you were having a new stroke. However, as you were being 
evaluated, you were seen to have a seizure. 

In the hospital, we did an MRI of your brain which did not show 
any new stroke. We also increased the dose of your Keppra, to 
help prevent seizures.

When you leave the hospital, it will be very important for you 
to take your Keppra every day, and not miss doses. Missing a 
dose could cause you to have a seizure.

According to ___ state law, you cannot drive for 6 
months after having a seizure. You should also not swim or bathe 
unsupervised, and should avoid heights, such as climbing on 
ladders.

Best wishes,
Your ___ team
 
Followup Instructions:
___